US06548515B1
Step A: N-methyl-3,4-methylenedioxyaniline
A solution of 3,4-methylenedioxyaniline (10 mmol) in formic acid (36 ml) is heated at reflux for 1 hour. After the removal of excess formic acid, the residue obtained is diluted with water and then extracted with dichloromethane. The combined organic phases are evaporated. The residue obtained is dissolved in ether, then lithium aluminium hydride (42 mmol) is added at 10° C., in small portions. After stirring the mixture at ambient temperature for 3 hours, water and 10% sodium hydroxide solution are added and the mixture is then filtered over Celite. The filtrate is dried and evaporated and the residue obtained is purified by chromatography on silica, using dichloromethane as eluant, to yield the expected product in the form of an oil.

reactant | 3,4-methylenedioxyaniline | 10 mmol | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
reactant | lithium aluminium hydride | 42 mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | formic acid | 36 ml | C(=O)O | CH2O2
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | N-methyl-3,4-methylenedioxyaniline | CNC1=CC2=C(C=C1)OCO2 | C8H9NO2
